Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
cough, hemoptysis and L sided chest pain
 
Major Surgical or Invasive Procedure:
CT-guided biopsy of lung
 
History of Present Illness:
___ yo M with h/o GERD, bipolar disorder, and stable lung lesion 
(followed outpt by ___ p/w chest pain and cough. Pt 
has had cough for a number of years. However, over the past 2 
weeks pt has had occasional blood in his sputum. For the past 
four days he has also had L-sided chest pain just below his 
axilla that is brought on by coughing, deep breaths and 
standing. Patients CP is described as ___, nonradiating. Pt 
seen by PCP and encouraged to come into ED. 
 
In the ED: 98.5, hr 72, 138/80, rr 16, 98% ra. hct 37 (slightly 
below baseline). CXR: mass in LUL. EKG nsr twi III (no priors). 
CTA: 3 cm mass in LUL with paucity of vasculature though no 
thrombus identified, worsened small airway infection, small L 
effusion. Pt given levoflox 750 mg iv, hep gtt, morphine for L 
chest wall pain. 

ROS: he denies associated dyspnea/n/v/diaphoresis/f/c, recent 
travel, sick contacts, allergies, weight loss, decrease PO, poor 
sleep. Notes GERD causing cough most nights. 
 
Past Medical History:
BPD  
GERD
Stable lung lesion
Atypical chest pain, cardiac cath ___
 
Social History:
___
Family History:
Mother died of ovarian cancer in late ___. 
 
Physical Exam:
Vitals: T98 HR68 BP144/80 RR20 O2% 96%RA

Gen: pleasant, well appearing gentleman in NAD.
HEENT: NCAT, PERRLA, pink conjunctiva, MMM, no oral lesions
Neck: supple, no thyromegaly, no LAD
CV: RRR S1S2 no m/r/g nondisplaced PMI
Pulm: clear bilaterally no r/c/r
Chest: non-tender to palpation over left chest/axilla, no 
rashes, hematoma, lesions
Abd:soft, nontender, nondistended, good BS
Ext:WWP, 2+pedal pulses
Skin: no rashes, edema

 
Pertinent Results:
___ 06:05PM   PLT COUNT-195
___ 06:05PM   NEUTS-77.5* LYMPHS-14.3* MONOS-6.2 EOS-1.6 
BASOS-0.3
___ 06:05PM   WBC-9.5# RBC-4.43* HGB-13.1* HCT-37.9* MCV-86 
MCH-29.6 MCHC-34.7 RDW-13.4
___ 06:05PM   GLUCOSE-89 UREA N-14 CREAT-1.0 SODIUM-139 
POTASSIUM-4.2 CHLORIDE-105 TOTAL CO2-24 ANION GAP-14

CXR (PA,LAT): IMPRESSION: Rapid development of large peripheral 
mass-like opacity in left 
upper lobe, with probable adjacent area of loculated pleural 
fluid. Major 
diagnostic considerations include pulmonary infarction and acute 
pulmonary 
infection. As discussed with Dr. ___, as the patient currently 
does not 
have infectious symptoms, CTA of the chest is suggested to 
evaluate for 
possible infarct. Although a neoplastic process could produce 
similar 
findings, the rapid development since ___ would be 
unusual for a 
primary lung malignancy. 

CTA CHEST W&W/O C&RECONS, NON-CORONARY:
IMPRESSION: 
1. Rounded 3 cm mass in the left upper lobe abutting the pleural 
surface, 
with a relative paucity of vasculature in this area. This could 
represent an 
infarcted lung, which is now evolving. However, no current 
pulmonary 
embolism/thrombus is identified. This lesion is unlikely to be a 
primary lung 
neoplasm given its rapid development since ___. 
Additionally, a 
necrotic malignant metastatic lesion is also thought to be less 
likely given 
that this is a solitary finding. 
  
2. Small airways disease, progressed from ___. 
  
3. Area of distortion and soft tissue density along the right 
minor fissure, 
which likely reflects scarring. However, interval followup is 
recommended to 
assess stability. 
  
4. Small left pleural effusion. 
  
5. Hiatal hernia with a patulous fluid filled distal esophagus. 
  
Findings posted to the ED dashboard at the time of 
interpretation.  
The study and the report were reviewed by the staff radiologist. 


 
Brief Hospital Course:
Cough w/hemoptysis: Patient was kept on respiratory precautions 
for TB. CXR showed a mass-like opacity in left upper lobe, with 
probable adjacent area of loculated pleural fluid. Levofloxacin 
was started to cover possible community-acquired pneumonia. 
Flagyl was added to cover GN bacteria, as patient has 
long-standing cough likely due to GERD. Pulmonary service was 
consulted and recommended biopsy of lesion. Heparin drip was 
discontinued as suspicion of pulmonary embolus, infarct was low. 
Induced sputum was collected for microbiology and AFB cultures. 
CT guided biopsy of the lung provided 8ml of fluctuant fluid 
which, on gram stain showed 3+ Gram + cocci in pairs and 1+ 
leukocytes. PPD was placed on day of admission. AFB cultures 
were pending on discharge, however no AFB was seen on smear. The 
patient did not experience hemoptysis during his admission and 
his cough symptoms improved. He was encouraged to ___ with 
his PCP for ___ of his PPD. A scheduled appointment was made 
with his pulmonologist for further work-up of his lung lesion.

GERD: Patient has history of GERD and Barretts esophagitis. He 
noted chronic cough occurring mostly at night. His outpatient 
PPI was continued during admission. A ___ appointment was 
made with his gastroenterologist for further work-up of cough 
and GERD. 
 
Bipolar: Patient remained stable on lamictal and celexa together 
without mood switch. He remained stable throught his stay. 

 
Medications on Admission:
citalopram 60mg PO daily
lamictal 200mg po daily
omeprazole 20mg po daily
 
Discharge Medications:
1. Levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 12 days.
Disp:*12 Tablet(s)* Refills:*0*
2. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. Lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*60 Tablet(s)* Refills:*1*
4. Citalopram 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Lung infection, lung lesion

Secondary:
BPD  
GERD
Stable lung lesion 
atypical chest pain, cardiac cath ___

 
Discharge Condition:
stable, afebrile.

 
Discharge Instructions:
You were admitted to the hospital for cough and chest pain for 
which you were treated with antibiotics. Please complete the 
entire course of antibiotics (levofloxacin). 

Please follow up with your scheduled appointments below with 
your PCP for ___ chest x-ray and CT. 

If you have worsening cough with bloody sputum, shortness of 
breath, worsening chest pain or fever, chills, please call your 
doctor or return to the hospital.
 
Followup Instructions:
___